US09303033B2
In a reaction flask, thiazolidine-2,4-dione (9 mg, 0.08 mmol) and 2-(4-(7-(cyclopropylamino)-3-formyl-6-methylpyrazolo[1,5-a]pyrimidin-5-yl)piperazin-1-yl)nicotinonitrile (15 mg, 0.04 mmol) were dissolved in ethanol (0.5 mL) along with piperidine (8 uL, 0.08 mmol). The reaction was heated at 80° C. for 1 hour in the microwave. The reaction was then cooled to r.t., diluted with water, and the precipitate was collected and washed with water, 1:1 ethanol:water, then ethanol. The yellow solid was dried in vacuo to give 2-(4-(7-(cyclopropylamino)-3-((2,4-dioxothiazolidin-5-ylidene)methyl)-6-methylpyrazolo[1,5-a]pyrimidin-5-yl)piperazin-1-yl)nicotinonitrile (10 mg, 54% yield). LCMS (M+1=502)

reactant | thiazolidine-2,4-dione | 0.08 mmol, 9 mg | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | 2-(4-(7-(cyclopropylamino)-3-formyl-6-methylpyrazolo[1,5-a]pyrimidin-5-yl)piperazin-1-yl)nicotinonitrile | 0.04 mmol, 15 mg | C1(CC1)NC1=C(C(=NC=2N1N=CC2C=O)N2CCN(CC2)C2=C(C#N)C=CC=N2)C | C21H22N8O
reactant | piperidine | 0.08 mmol, 8 uL | N1CCCCC1 | C5H11N
solvent | ethanol | 0.5 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-(4-(7-(cyclopropylamino)-3-((2,4-dioxothiazolidin-5-ylidene)methyl)-6-methylpyrazolo[1,5-a]pyrimidin-5-yl)piperazin-1-yl)nicotinonitrile | 10 mg, 54% yield | C1(CC1)NC1=C(C(=NC=2N1N=CC2C=C2C(NC(S2)=O)=O)N2CCN(CC2)C2=C(C#N)C=CC=N2)C | C24H23N9O2S
